US06274608B1
1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone
To a suspension of AlCl3 (2.88 g; 21.6 mmol) in methylene chloride (5 ml) was added over 15 minutes a solution of 1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydro-naphthalene (4.0 g; 20 mmol) and acetyl chloride (1.6 ml; 21.6 mmol) in methylene chloride (20 ml) at 0° C. The reaction mixture was stirred for 30 minutes and ice cooled water (50 ml) was added. The organic phase was separated and the water phase was further extracted with methylene chloride (3×30 ml). The combined organic phases were first washed with brine then dried before evaporated. The residue was purified by column chromatography using hexane:methylene chloride (1:1) to give the title compound in 4.9 g (100%) yield.

reactant | AlCl3 | 21.6 mmol, 2.88 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydro-naphthalene | 20 mmol, 4.0 g | CC1(CCC(C2=CC(=CC=C12)C)(C)C)C | C15H22
reactant | acetyl chloride | 21.6 mmol, 1.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(C)=O | C17H24O
